US05334716
To a solution of ethyl 4-[1-[4-[(S)-1-(4-isobutylphenyl)butoxy]benzoyl]indolizin-3-yl]butyrate (282 mg) in ethanol (3 ml) and 1,4-dioxane (3 ml) was added 1N aqueous solution of sodium hydroxide (2 ml). The mixture was stirred at room temperature for 2 hours, and then poured into a mixture of ethyl acetate and 0.5N hydrochloric acid. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated to give 4-[1-[4-[(S)-1-(4-isobutylphenyl)butoxy]benzoyl]- indolizin-3-yl]butyric acid (232 mg) as powder.

reactant | ethyl 4-[1-[4-[(S)-1-(4-isobutylphenyl)butoxy]benzoyl]indolizin-3-yl]butyrate | 282 mg | C(C(C)C)C1=CC=C(C=C1)[C@H](CCC)OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=C1 | C35H41NO4
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-[1-[4-[(S)-1-(4-isobutylphenyl)butoxy]benzoyl]- indolizin-3-yl]butyric acid | 232 mg | C(C(C)C)C1=CC=C(C=C1)[C@H](CCC)OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)O)C=C1 | C33H37NO4
